US04374248
3-Amino-4-{2-[(2-aminothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide
A solution of 2-[(2-aminothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 2.62 g; 10.0 mmoles) [prepared in Example 122, Step A] in 20 ml of methanol was added dropwise over 30 minutes to a cold (5°) solution of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide (1.62 g; 10.0 mmoles) in 50 ml of methanol. After stirring for 1.5 hours, anhydrous ammonia was bubbled into the solution for 30 minutes and the solution kept at 5° for 17 hours. The reaction mixture was evaporated under reduced pressure and the residue was chromatographed on a Preparative HPLC system using μ-porasil silica gel. The appropriate fractions were combined and evaporated under reduced pressure to give the title compound as an amorphous solid; the NMR spectrum (100 MHz) in d6 dimethyl sulfoxide showed the presence of approximately 0.4 moles of ethanol.

reactant | 2-[(2-aminothiazol-4-yl)methylthio]ethylamine | NC=1SC=C(N1)CSCCN | C6H11N3S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | 10.0 mmoles, 1.62 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 3-Amino-4-{2-[(2-aminothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCSCC=1N=C(SC1)N)=O | C8H12N6OS3
